US08278302B2
2-Chloro-6-methyl-isonicotinamide (1.23 g) and N,N-dimethylformamide dimethyl acetal (1.05 ml) were dissolved in dry DMF (4 ml) under inert atmosphere and the resulting solution was heated to 90° C. and stirred for 1 h. The reaction mixture was cooled to room temperature and a solution of hydrazine acetate (3.32 g) in acetic acid (8 ml) was dropwise added. The mixture was heated to 90° C. and stirred for 1 h. The solvent was removed under reduced pressure and the residue partitioned between saturated aqueous solution of NaHCO3 and EtOAc. The organic phase was separated, washed with brine, dried under Na2SO4, filtered and the solvent was evaporated under reduced pressure. The crude was purified by flash column chromatography (10 g Isolute® silica gel cartridge; gradient elution: hexane/EtOAc from 1/1 to 3/7) affording 2-Chloro-6-methyl-4-(1H-[1,2,4]triazol-3-yl)-pyridine (0.92 g). GC (Rt)=13.21 min (method=3A)

reactant | 2-Chloro-6-methyl-isonicotinamide | 1.23 g | ClC=1C=C(C(=O)N)C=C(N1)C | C7H7ClN2O
reactant | N,N-dimethylformamide dimethyl acetal | 1.05 ml | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine acetate | 3.32 g | C(C)(=O)O.NN
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-6-methyl-4-(1H-[1,2,4]triazol-3-yl)-pyridine | 0.92 g | ClC1=NC(=CC(=C1)C1=NNC=N1)C | C8H7ClN4
